US08912188B2
To a solution of 5-bromo-1-methyl-1H-benzo[d][1,2,3]triazole (600 mg, 2.84 mmol) in dioxane (20 ml) was added Pd(dppf)Cl2 (86 mg, 0.12 mmol), AcOK (0.575 g, 5.86 mmol), and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (658 mg, 2.59 mmol) under an N2 atmosphere. The resulting solution was stirred for 12 h at 90° C. and then concentrated under vacuum to give a residue, which was purified via silica gel chromatography (2% ethyl acetate in petroleum ether) to afford 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d][1,2,3]triazole as a white solid (0.56 g, 74%).

reactant | 5-bromo-1-methyl-1H-benzo[d][1,2,3]triazole | 2.84 mmol, 600 mg | BrC1=CC2=C(N(N=N2)C)C=C1 | C7H6BrN3
reactant | AcOK | 5.86 mmol, 0.575 g | C(=O)(C)O[K]
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 2.59 mmol, 658 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.12 mmol, 86 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d][1,2,3]triazole | 0.56 g, 74% | CN1N=NC2=C1C=CC(=C2)B2OC(C(O2)(C)C)(C)C | C13H18BN3O2
